US07238716B2
A mixture of 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole (1.73 g), 3-(4-mercaptophenyl)propionic acid (1.00 g), triethylamine (1.22 g) and N,N-dimethylformamide (20 mL) was stirred at room temperature for 2 hrs. The reaction mixture was poured into water, acidified with 2N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated to give crystals of 3-[4-[[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyl]sulfanyl]phenyl]propionic acid. Recrystallization from ethyl acetate gave colorless prism crystals (1.85 g, 73%). melting point: 157-158° C.

reactant | 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole | 1.73 g | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
reactant | 3-(4-mercaptophenyl)propionic acid | 1.00 g | SC1=CC=C(C=C1)CCC(=O)O | C9H10O2S
reactant | triethylamine | 1.22 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 3-[4-[[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyl]sulfanyl]phenyl]propionic acid | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CSC2=CC=C(C=C2)CCC(=O)O)C=C1 | C27H25NO4S
